US04459414
Tetrakis-(p-toluylthio)-phthalic acid N-2-hydroxyethylimide
2 g (6.08 millimols) of tetrachlorophthalic acid N-2-hydroxyethylimide, 3.1 g (24.93 millimols) of p-thiocresol, 5.08 g (36.78 millimols) of potassium carbonate and 20 ml of N,N-dimethylformamide are stirred at 25° C. for 1 hour. After evaporation, the residue is acidified with dilute HCl solution and extracted with methylene chloride. After recrystallisation from toluene/cyclohexane, 3.21 g (78% of theory) of the title compound are obtained; melting point 161°-2° C.

reactant | tetrachlorophthalic acid N-2-hydroxyethylimide | 6.08 millimols, 2 g | OCCN=C(C=1C(C(=O)O)=C(C(=C(C1Cl)Cl)Cl)Cl)O | C10H7Cl4NO4
reactant | p-thiocresol | 24.93 millimols, 3.1 g | CC1=CC=C(C=C1)S | C7H8S
reactant | potassium carbonate | 36.78 millimols, 5.08 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Tetrakis-(p-toluylthio)-phthalic acid N-2-hydroxyethylimide | OCCN=C(C=1C(C(=O)O)=C(C(=C(C1SC1=CC=C(C=C1)C)SC1=CC=C(C=C1)C)SC1=CC=C(C=C1)C)SC1=CC=C(C=C1)C)O | C38H35NO4S4
